US09388190B2
To a solution of 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole (50 mg, 0.19 mmol) in iPrOH (2 mL) was added 2-chloro-4-(trifluoromethyl)pyrimidine (105 mg, 0.58 mmol) and DIEA (185 mg, 0.96 mmol). The mixture was stirred at 100° C. for 4 h. The mixture was concentrated under vacuum and the residue was purified by preparative TLC to afford 1-isopropyl-7-(methylthio)-2-(4-(trifluoromethyl)pyrimidin-2-yl)-1,2,3,4-tetrahydropyrazino[1,2-a]indole (45 mg, 57.7% yield) as a yellow oil. LC-MS MS (ESI) m/z 407.1 [M+H]+.

reactant | 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole | 0.19 mmol, 50 mg | C(C)(C)C1NCCN2C1=CC=1C=CC(=CC21)SC | C15H20N2S
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 0.58 mmol, 105 mg | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | DIEA | 0.96 mmol, 185 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | iPrOH | 2 mL | CC(C)O | C3H8O
product | 1-isopropyl-7-(methylthio)-2-(4-(trifluoromethyl)pyrimidin-2-yl)-1,2,3,4-tetrahydropyrazino[1,2-a]indole | 45 mg, 57.7% yield | C(C)(C)C1N(CCN2C1=CC=1C=CC(=CC21)SC)C2=NC=CC(=N2)C(F)(F)F | C20H21F3N4S
